US08247576B2
{4-[4-(4-bromo-phenyl)-piperidin-4-yl]-phenoxy}-acetic acid ethyl ester was reacted with 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole following the procedure set out in Example 1, but using tetrakis(triphenylphosphine) palladium (0) as the catalyst and heating at 80° C. for 30 minutes, to yield a mixture of the title compounds. On work up the basic aqueous extract was neutralised with hydrochloric acid and extracted with ethyl acetate (×2), then these organic extracts were combined and washed with brine, dried (MgSO4), filtered and concentrated to give a crude product that was recrystallised from water to afford (4-{4-[4-(1H-pyrazol-4-yl)-phenyl]-piperidin-4-yl}-phenoxy)-acetic acid (12 mg, 5%); LCMS (PS-A3) Rt 5.33 min [M+H]+ 378. 1H NMR (DMSO-d6) δ 2.22-2.26 (4H, m), 2.67-2.71 (4H, m), 4.65 (2H, s) 6.67 (2H, d), 7.11 (2H, d), 7.24 (2H, d), 7.46 (2H, d), 7.96 (2H, br.s).

reactant | {4-[4-(4-bromo-phenyl)-piperidin-4-yl]-phenoxy}-acetic acid ethyl ester | C(C)OC(COC1=CC=C(C=C1)C1(CCNCC1)C1=CC=C(C=C1)Br)=O | C21H24BrNO3
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
catalyst | tetrakis(triphenylphosphine) palladium (0) | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (4-{4-[4-(1H-pyrazol-4-yl)-phenyl]-piperidin-4-yl}-phenoxy)-acetic acid | 12 mg, 5% | N1N=CC(=C1)C1=CC=C(C=C1)C1(CCNCC1)C1=CC=C(OCC(=O)O)C=C1 | C22H23N3O3
